US05192795
N-((1-(2-Acetylaminoethyl)-4-formyl-5-methyl-1H-pyrrol-2-yl)methyl)acetamide
4.9 g of N-((1-(2-acetylaminoethyl)-5-methyl-1H-pyrrol-2-yl)methyl)acetamide in 70 ml of 1,2-dichloroethane are added dropwise to 3.0 g (21 mmol) of chloromethylenedimethylammonium chloride in 30 ml of 1,2-dichloroethane at 10° C. The mixture is subsequently stirred for 90 min, hydrolysed using potassium carbonate solution and worked up as described in Example 1.

reactant | N-((1-(2-acetylaminoethyl)-5-methyl-1H-pyrrol-2-yl)methyl)acetamide | 4.9 g | C(C)(=O)NCCN1C(=CC=C1C)CNC(C)=O | C12H19N3O2
reactant | chloromethylenedimethylammonium chloride | 21 mmol, 3.0 g | [Cl-].ClC=[N+](C)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | N-((1-(2-Acetylaminoethyl)-4-formyl-5-methyl-1H-pyrrol-2-yl)methyl)acetamide | C(C)(=O)NCCN1C(=CC(=C1C)C=O)CNC(C)=O | C13H19N3O3
